US06248775B1
Part C: Preparation of 6-(tert-Butyloxycarbonylamino)-3-pyridylmethanol
To 4.6 mL (4.6 mmol) of a 1M solution of lithium aluminum hydride in diethyl ether at −40° C. under a nitrogen atmosphere, was added a slution of 618 mg (2.3 mmol) of ethyl 6-(tert-butyloxycarbonylamino)nicotinate from part B in 40 mL of anhydrous tetrahydrofuran. After the addition, this was warmed to room temperature, stirred for 3 hours, cooled to 0° C., and 145 μL of water, 145 μL of 20% sodium hydroxide solution and 290 μL of water were successively added. To the resulting mixture was added 50 mL of tetrahydrofuran and stirring continued for 30 minutes. Anhydrous magnesium sulfate was added, the solids removed via filtration and the filtrate concentrated under reduced pressure to afford 460 mg of the desired product, m/e=224(M+), which was used directly in the next step.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 6-(tert-butyloxycarbonylamino)nicotinate | 2.3 mmol, 618 mg | C(C)(C)(C)OC(=O)NC1=NC=C(C(=O)OCC)C=C1 | C13H18N2O4
reactant | sodium hydroxide | 145 μL | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 290 μL | O | H2O
solvent | water | 145 μL | O | H2O
product | 6-(tert-Butyloxycarbonylamino)-3-pyridylmethanol | 460 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)CO | C11H16N2O3
